US05571775
14. Preparation of 2-Benzylthio-5-methoxy-7-methyl[1,2,4]triazolo[1,5-a]pyridine
A mixture of 2-benzylthio-5-chloro-7-methyl[1,2,4]triazolo[1,5-a]pyridine (5.0 g, 0.017 mol), sodium methoxide in methanol (16 mL of 25 percent, 3.7 g, 0.070 mol) and methanol (100 mL) were heated at reflux with stirring for 4 hours. The reaction mixture was then cooled, acidified with acetic acid (10 mL), and concentrated by evaporation under reduced pressure. The residue obtained was dissolved in dichloromethane and the resulting solution was washed well with water, dried over magnesium sulfate, and concentrated by evaporation under reduced pressure. The residue obtained was mixed with hexane and filtered to recover the solids. The solids were dried to obtain 4.7 g (97 percent of theory) of the title compound as a tan powder melting at 85°-87° C.

reactant | 2-benzylthio-5-chloro-7-methyl[1,2,4]triazolo[1,5-a]pyridine | 0.017 mol, 5.0 g | C(C1=CC=CC=C1)SC1=NN2C(C=C(C=C2Cl)C)=N1 | C14H12ClN3S
reactant | sodium methoxide | C[O-].[Na+]
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
reactant | hexane | CCCCCC | C6H14
solvent | methanol | 100 mL | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 0.070 mol, 16 mL, 3.7 g | CO | CH4O
product | 2-Benzylthio-5-methoxy-7-methyl[1,2,4]triazolo[1,5-a]pyridine | C(C1=CC=CC=C1)SC1=NN2C(C=C(C=C2OC)C)=N1 | C15H15N3OS
